Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCP: ___
Onc: ___
. 
CC: R arm pain (lytic R humerus lesion), hypercalcemia
 
Major Surgical or Invasive Procedure:
# R UE Embolization (___)

# Fixation of right humerus pathologic fracture with 
intramedullary nail (___)

# Completion of WBRT (___)

# R humerus XRT (___)

 
History of Present Illness:
___ year old male, with metastatic renal cell carcinoma, diabetes 
and  hypercalcemia, who has a chief complaint of weakness. He 
also has a metastasis in his right humerus that requires 
internal fixation and  radiation. 

He saw Dr. ___ and was evaluated for Hypercalcemia , he 
was sent to ER for treatment of increased calcium and ortho 
consult for his R humerus lytic lesion. He was seen by ortho in 
ER who wanted pt to be admitted. He fits the criteria to undergo 
internal fixation of humerus and he is being admitted to Omed.
In the ED, initial VS were pain 8, T 97.8, HR 77, BP 150/78, RR 
18, O2 100%RA. Initial labs notable for WBC 8.3, HCT 33.6, PLT 
194, Na 137,  4.6, HCO3 21, Cr 1.1, Ca ___, Mg 1.7, P 2.4. INR 
1.2, UA negative. 
CXR showed no acute process. Humerus film with 4.0 cm lytic 
lesion through the midshaft of right humerus. 
 
He was given 2L NS prior to admission for further management. VS 
prior
to transfer were pain 1, T 98.0, HR 84, BP 124/62, RR 16, O2 
98%RA.

Patient reports he is feeling well. He describes his physical 
condition and that he has had falls early ___ due to 
generalized weakness and CNS mets. Luckily he was not hurt 
during the fall. He also mentions that when his calcium gets 
high, he develops slurred speech which resolved when his levels 
get
normal. 

No other sx at this time. He cannot walk as much as he used to 
now. He denies having chest pain, either at rest or at exertion. 
No headaches or visual changes. He is undergoing radiation 
therapy for his CNS mets. No trouble with respiration. No other 
issues at this time.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.

 
Past Medical History:
DM
diverticulosis
HLD
HTN 
seborrheic keratosis
actinic keratosis
? Cataracts
Supranasal visual field defect - followed by Neuro-Optho at Mass 
eye and Ear with routine exams
 
Social History:
___
Family History:
Mother and father still alive, in their ___. Father with ___. 
 Brother with CAD.  Other brother with tongue SCC. MGF with 
colon cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.4PO ___
GENERAL: Pleasant, lying in bed comfortably
EYES: sclera anicteric
 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops;
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: nondistended; soft,

MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO:No focal deficits observed
SKIN: No significant rashes

 
Pertinent Results:
OTHER DATA: 
# CXR (___): PA and lateral views the chest provided 
demonstrate no focal consolidation, large effusion or 
pneumothorax.  Please note evaluation is somewhat limited due to 
low lung volumes.  Cardiomediastinal silhouette appears normal.  
Partially visualized lucent lesion in the right midshaft humerus 
is better assessed on same-day a right humerus radiograph.  
Otherwise the bony structures appear unremarkable. 

# R humerus X-ray (___): A known 4.0 x 2.2 cm lucent lesion 
involving the right humeral midshaft appears similar to the 
prior exam without evidence of pathological fracture.  No 
additional lesions are seen within the imaged field. 

# R UE Embolization (___): 1. Hypervascular lesion involving the 
right humeral midshaft with parasitized vasculature supplied 
with multiple tumor branches arising from the brachial artery, 
profunda brachii and anterior humeral circumflex artery. 2. 
Successful embolization of 5 tumor branches with approximate 
reduction of 
90% blood flow to the right humeral lesion.  Final embolization 
right axillary arteriogram demonstrated minimal vascular flow by 
a few tiny tumoral branches arising from the distal brachial 
artery. 3. Right axillary arteriogram demonstrated an early 
bifurcating radial artery arising from the axillary artery. 4. 
Normal right common femoral arterial anatomy with mid femoral 
head access.  Successful Angio-Seal closure of right common 
femoral arteriotomy.  Palpable distal right lower extremity 
pulses. 5. Palpable right radial and ulnar pulse is throughout 
the exam.  No evidence of vascular disturbance to the hand. 

# Fixation of right humerus pathologic fracture with 
intramedullary nail (___)

# Completion of WBRT (___)
# Radiation Mapping R humerus (___)
. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ with metastatic renal cell carcinoma 
admitted to Oncology for hyperglycemia, hypercalcemia, and 
possible internal fixation of his R humerus(lytic lesion)

#R humeral lytic lesion:  Mr. ___ was admitted with a 
large R humeral lytic mass with concerns for pathological 
fracture.   This area was painful and fragile with risk of true 
fracture with mobility.  The arm was placed in a sling for 
stabilization and the pain was treated with oral oxycodone PRN.

To address the humeral mass - a 2-part procedure was performed.  
First, he underwent ___ embolization of the R humerus 
___ to help eliminate risk of bleeding from the 
subsequent fixation procedure.  He tolerated this procedure well 
without complications and the ___ procedure was able to eliminate 
up to 90% of blood supply to tumor via embolization.  

On ___, he underwent fixation of pathological fracture, with an 
intramedullary nail.  He tolerated this procedure without 
complications.  Apparently, intraoperatively, due to the fragile 
nature of the bone, the bone had indeed fractured with minimal 
manipulation.  This was addressed by the intramedullary nail.

The RUE is now WBAT.   To address the pain and the mass itself, 
he was initiated on XRT to the humerus (beginning ___.  He 
will continue with ___ to strengthen the arm and his overall 
strength and function.  As noted, pain was controlled with the 
oxycodone 5mg Q4h PRN for pain + Bowel regimen.

# Met Renal cell carcinoma: Dr. ___ has extensive 
metastasis of the renal cell cancer with involvement of the 
brain, lungs, liver, bilateral adrenal glands, R humerus, soft 
tissue neck.  This is associated with a poor prognosis with an 
estimated life expectancy in terms of weeks to months.  During 
this stay, he received WBRT to the CNS daily for a total 10 days 
(total 30 Grys).  This was completed on ___. 

Due to cognitive decline, generalized motorized slowing, there 
was concern for radiation associated cerebral edema.  As a 
result, the dexamethasone was increased from 2mg daily to 4 mg 
BID (with 10 mg bolus on ___, with some response.  This should 
be continued for 4 mg Dexamethasone BID on discharge ___ 
for 3 days, followed by 4 mg daily for 3 days, followed by 2 mg 
daily for 3 days and then tapered to none.  

The plan was for ___ to receive Pazopanib by medonc as outpt 
(likely 2 weeks after discharge).  Because this medicine cause 
fatigue, he has be strong enough first prior to initiating this 
immunotherapy agent.  This will have to be discussed as an 
outpatient given he has transitioned to home hospice now. 

The family expressed a strong desire for second opinion at ___. 
After extensive efforts and discussions, it was determined that 
this could not be obtained while he was an inpatient.  This, 
however, can be done as an outpatient.
   He was continued on Keppra for seizure prophylaxis.

# Hypercalcemia: He presented with elevated Ca levels.  Ionized 
Ca 1.42, Ca (11.3, alb 3.2) - symptomatic with mild cognitive 
deficits.  This was attributed to malignancy (rPTH elevated at 
52 ___.  VitD level was nl.  He received IV zometa 4mg in 
the recent past (___).  He was given IVF during NPO and 
occasionally given Lasix to help manage the calcium level.  It 
remained elevated, but not significantly high enough to warrant 
continued Lasix treatment. 
   
# DM2: ___ had episodes of hyperglycemia, exacerbated by 
increased dose of dexamethasone. Weight 77kg.  The home 
glyburide and metformin were stopped.  ___ was consulted and 
assisted with insulin control with use of lantus, NPH and 
increased sliding scale.  The dexamethasone will be tapered on 
discharge and his fingersticks and insulin dosing requirements 
will need to be monitored while his dexamethasone is being 
tapered.
    
# Hx Lown Ganong ___ sx:  EP reviewed EKG, PR not especially 
short and may not meet criteria for syndrome.  There were no 
contraindications for procedures - and he tolerated the surgery 
and ___ procedure without complications. 

# FEN: Regular
# PPX: Heparin SC
# ACCESS: PIV  
# CODE: DNR/DNI  
# COMMUNICATION: Spouse ___, ___
# DISPO: ___ determined that he would benefit from acute 
rehab.  

Patient was discharged to home hospice after prior discussions 
with his wife regarding his follow-up course. His follow-up 
appointments will have to be determined after discussion with 
his wife and patient regarding follow-up needed while at home 
hospice. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. Multivitamins 1 TAB PO DAILY 
3. LevETIRAcetam 500 mg PO BID 
4. Dexamethasone 4 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. GlyBURIDE 5 mg PO BID 
7. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
2.  Docusate Sodium 100 mg PO BID  
3.  Famotidine 20 mg PO DAILY 
Give 30 minutes prior to breakfast 
RX *famotidine [Acid Controller] 20 mg 1 tablet(s) by mouth 1 
tablet daily Disp #*30 Tablet Refills:*1 
4.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
RX *glucagon (human recombinant) [Glucagon Emergency Kit 
(human)] 1 mg 1 mg IM q15 minutes Disp #*1 Kit Refills:*0 
5.  Glargine 8 Units Bedtime
NPH 27 Units Breakfast
NPH 25 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus] 100 unit/mL AS DIR 8 Units before 
BED; Disp #*1 Vial Refills:*0
RX *blood-glucose meter ___ Aviva Connect meter]   daily 
Disp #*1 Each Refills:*0
RX *insulin lispro [Humalog] 100 unit/mL AS DIR Up to 14 Units 
QID per sliding scale Disp #*1 Vial Refills:*0
RX *insulin NPH human recomb [Humulin N] 100 unit/mL AS DIR 27 
Units before BKFT; 25 Units before DINR; Disp #*1 Vial 
Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation  
7.  Dexamethasone 4 mg PO Q12H for 3 days start ___, then to 4 
mg daily for 3 days, followed by 2 mg daily for 3 days. 
8.  Atorvastatin 10 mg PO QPM  
9.  LevETIRAcetam 500 mg PO BID  
10.  Multivitamins 1 TAB PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*28 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
renal cell carcinoma
hypercalcemia of malignancy
lytic bone lesion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,
It was a pleasure looking after you.  As you know, you were 
hospitalized for evaluation of high calcium and potassium levels 
that were treated with IV hydration.   

You also had lytic humerus bone mass which was large enough to 
cause risk of fracture.  For this reason, you were initially 
placed in an arm sling - and eventually underwent a 2-stage 
procedure to stabilize the bone: an ___ embolization of 
the mass (___) and operative internal fixation with an 
intramedullary humerus nail (___).  You tolerated this procedure 
well and will be receiving oral oxycodone and Tylenol for pain 
control. 

During this hospitalization, you also underwent completion of 
your 10d course of whole brain radiation and completed this on 
___.  Due to mental slowness and general weakness, the 
concern was of cerebral swelling from the radiation treatments.  
As a result, you were treated with steroids (dexamethasone) 
which were subsequently increased in dose during the 
hospitalization.    With this increased dose, you had higher 
levels of blood sugar levels - which were controlled with 
adjustments to your insulin (and with the assistance of the 
___ experts). 

The metformin and glyburide were both discontinued.

You will be discharged to home with hospice care.  You can be 
followed up with oncology, neuro-oncology, onc-orthopedics, and 
primary care.  Please see below for details.

We wish you the very best!

Your ___ Team
 
Followup Instructions:
___